US04623659
A reaction mixture containing 23.5 g. of gallamide, 180 ml. of ethyl acetate and 35 ml. of thionylchloride was refluxed for about 18 hours. The volatile contents were removed by evaporation in vacuo and the resulting residue dissolved in 215 ml. of water. This aqueous solution was heated to about 90° C. until the evolution of gas had ceased. The aqueous solution was filtered through charcoal and the water removed from the filtrate by evaporation. 18 g. of gallonitrile were obtained melting at about 219° C. with decomposition (86% yield). Other nitriles useful as starting materials can be prepared similarly.

reactant | gallamide | C(C1=CC(O)=C(O)C(O)=C1)(=O)N | C7H7NO4
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | gallonitrile | 86% yield | C(C1=CC(O)=C(O)C(O)=C1)#N | C7H5NO3
